US07071175B1
A solution of 5-bromo-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-pyridin (26.0 g, 67.1 mmol), tert-butyl-dimethyl-tributylstannanylmethoxy-silane (47.6 g, 109 mmol), and bis(triphenylphosphine)palladium(II) dichloride (0.90 g, 1.42 mmol) in 1,2-dichloroethane (80 mL) was stirred at 90° C. for two days. The mixture was cooled to 0° C. and diethyl ether (200 mL) was added followed by saturated aqueous potassium fluoride (40 mL). The mixture was stirred vigourously for 30 min and filtered. The organic phase was washed with water, dried and concentrated under reduced pressure. Flash chromatography (hexane/EtOAc, 100:0→95:5) gave 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-3-methylpyridin (18.0 g, 59%).

reactant | 5-bromo-2-[N,N-bis(tert-butoxycarbonyl)amino]-3-methyl-pyridin | 67.1 mmol, 26.0 g | BrC=1C=C(C(=NC1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C16H23BrN2O4
reactant | tert-butyl-dimethyl-tributylstannanylmethoxy-silane | 109 mmol, 47.6 g | C(C)(C)(C)[Si](OC[Sn](CCCC)(CCCC)CCCC)(C)C
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | potassium fluoride | 40 mL | [F-].[K+]
reactant | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.42 mmol, 0.90 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-3-methylpyridin | 18.0 g, 59% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C=C1C)C(O[SiH2]C(C)(C)C)(C)C | C23H40N2O5Si
